US03966773
Preparation of 2-(6-Carboxy-5,5-dimethylhexyl)cyclopent-2-en-1-one
To a rapidly stirred mixture of 1-acetoxy-2-(6-carbethoxy-5,5-dimethylhexyl)cyclopent-1-ene (35 g., 0.113 mole) chloroform (95 ml.), water (125 ml.) and calcium carbonate (11.8 g.) cooled in an ice-bath is added dropwise over a period of thirty minutes a solution of bromine (18.8 g) in carbon tetrachloride (31 ml.). After stirring in the cold for an additional 45 minutes the orange colored chloroform layer is separated and washed with dilute sodium bisulfite and saturated saline solution dried over magnesium sulfate and taken to dryness in vacuo (bath temperature: 35°-40°) leaving an amber colored oil. A slurry of 100 ml. of N,N-dimethylacetamide and 16.5 g. of CaCO3 is stirred and heated to reflux under nitrogen flow. The above dried oil is added from a dropping funnel rapidly, maintaining reflux and nitrogen flow for 30 minutes. The cooled reaction mixture is filtered, and the precipitate is washed with ether. The filtrate is poured into two liters ice-cold water and is extracted with ether. The combined extracts and washing is washed with water, saturated saline, treated with decolorizing charcoal, filtered. The solvent evaporated in vacuo to give 24 g. (77%) of subject product.

reactant | 1-acetoxy-2-(6-carbethoxy-5,5-dimethylhexyl)cyclopent-1-ene | 0.113 mole, 35 g | C(C)(=O)OC1=C(CCC1)CCCCC(CC(=O)OCC)(C)C | C18H30O4
reactant | calcium carbonate | 11.8 g | C([O-])([O-])=O.[Ca+2]
reactant | bromine | 18.8 g | BrBr | Br2
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
solvent | carbon tetrachloride | 31 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 125 ml | O | H2O
solvent | chloroform | 95 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(6-Carboxy-5,5-dimethylhexyl)cyclopent-2-en-1-one | C(=O)(O)CC(CCCCC=1C(CCC1)=O)(C)C | C14H22O3
